US07071175B1
Triethylamine (0.105 g, 1.04 mmol) was added to a solution of 2-[(6tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-acrylic acid ethyl ester (0.36 g, 0.94 mmol) in thioacetic acid (4 mL) at 0° C. under argon. The mixture was heated at 45° C. for 24 h. Ethyl acetate was added and the organic phase was washed with aqueous saturated sodium bicarbonate and brine and dried. After filtration and evaporation in vacuo the crude product was purified by flash chromatography (toluene/ethyl acetate, 1:0→5:1) to give 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-3-phenyl-propionic acid ethyl ester (0.314 g, 73%).

reactant | Triethylamine | 1.04 mmol, 0.105 g | C(C)N(CC)CC | C6H15N
reactant | 2-[(6tert-butoxycarbonylamino-pyridin-3-yl)-phenyl-methyl]-acrylic acid ethyl ester | 0.94 mmol, 0.36 g | C(C)OC(C(=C)C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C22H26N2O4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | thioacetic acid | 4 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-3-phenyl-propionic acid ethyl ester | 0.314 g, 73% | C(C)OC(C(C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C24H30N2O5S
